US07855297B2
By the reaction and treatment in the same manner as in Preparation Example 11 using 5-benzyloxy-8-fluoro-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid (2.30 g) and 5-amino-2-isopropylpyridine (1.04 g) as starting materials, 5-benzyloxy-8-fluoro-N-(6-isopropylpyridin-3-yl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (2.83 g) was obtained. melting point: 184.0° C.

reactant | 5-benzyloxy-8-fluoro-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid | 2.30 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=C(C=C1)F)C(=O)O | C18H17FO3
reactant | 5-amino-2-isopropylpyridine | 1.04 g | NC=1C=CC(=NC1)C(C)C | C8H12N2
product | 5-benzyloxy-8-fluoro-N-(6-isopropylpyridin-3-yl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 2.83 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=C(C=C1)F)C(=O)NC=1C=NC(=CC1)C(C)C | C26H27FN2O2
